US06472412B1
A mixture of 2-fluoro-5-isopropoxy-4-methoxybenzoic acid (7.2 g) and lithium iodide (24 g) in collidine (120 mL) is heated at 150° C. overnight, cooled and dissolved in 2 N sodium hydroxide (200 mL) and washed with ethyl acetate (3×150 mL). The aqueous solution is acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate (3×100 mL). The combined organic layers are dried (magnesium sulfate) and concentrated to give an oil. The oil is subjected to mplc on silica gel using petroleum ether:ethyl acetate (2:1 v/v) as eluent to give 2-fluoro-4-hydroxy-5-isopropylbenzoic acid (5.7 g). [NMR (DMSO): 7.32 (d, 1H, J=8 Hz), 6.67 (d, 1H, J=12 Hz), 4.47 (m, 1H), 1.24 (d, 6H, J=6 Hz)].

reactant | 2-fluoro-5-isopropoxy-4-methoxybenzoic acid | 7.2 g | FC1=C(C(=O)O)C=C(C(=C1)OC)OC(C)C | C11H13FO4
reactant | lithium iodide | 24 g | [I-].[Li+]
reactant | collidine | 120 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | sodium hydroxide | 2 N, 200 mL | [OH-].[Na+]
product | 2-fluoro-4-hydroxy-5-isopropylbenzoic acid | 5.7 g | FC1=C(C(=O)O)C=C(C(=C1)O)C(C)C | C10H11FO3
